US06890942B2
3-Hydroxy-4-methanesulfonylamino-4-oxo-but-2-enoic acid (4-fluoro-benzyl)-methoxy-amide
2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-benzyl)-N-methoxy-acetamide was treated with methane sulfonamide as described in the preparation of compound 1 to yield 100 mg solid (29% yield), mp=137° C. (decomposition). HRMS (M−H) cacld for C13H14FN2O6S: 345.056. Found: 345.0570. Anal calcd for C13H15FN2O6S: C, 45.08; H, 4.36; N, 8.08. Found: C, 45.20; H, 4.29; N, 7.92. 1H NMR (500 MHz, CDCl3) δ: 3.36 (s, 3), 3.71 (s, 3), 4.81 (s, 2), 6.56 (s, 1), 7.04 (m, 2), 7.32 (m, 2), 8.97 (s, 1). 13C NMR (125 MHz, CDCl3) δ: 41.60, 48.27, 63.16, 92.57, 115.65, 115.81, 130.19, 130.24, 130.97, 158.99, 160.05, 161.65, 163.61, 170.79.

reactant | 2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-benzyl)-N-methoxy-acetamide | CC1(OC(C(O1)=CC(=O)N(OC)CC1=CC=C(C=C1)F)=O)C | C15H16FNO5
reactant | methane sulfonamide | CS(=O)(=O)N | CH5NO2S
product | 3-Hydroxy-4-methanesulfonylamino-4-oxo-but-2-enoic acid (4-fluoro-benzyl)-methoxy-amide | 100 mg, 29% yield | FC1=CC=C(CN(C(C=C(C(=O)NS(=O)(=O)C)O)=O)OC)C=C1 | C13H15FN2O6S
